US04182758
A solution of 3-(N-ethoxycarbonyl-N-hydroxyamino)-2-hydroxypropylphosphonic acid (2.4 g.) in 1 N hydrochloric acid (100 ml.) was heated to reflux for 14 hours. The reaction mixture was evaporated to dryness under reduced pressure to give a residue, to which was added water (20 ml.), washed twice with chloroform (each 10 ml. portion) and decolorized with activated charcoal (200 mg.). The activated charcoal was filtered off and the filtrate was evaporated to dryness under reduced pressure to give a dark reddish oil, to which was added water (3 ml) and adjusted to pH 4.0 with 28% aqueous ammonia. This aqueous solution was diluted with methanol and allowed to stand at ambient temperature, and then the precipitating crystals were collected by filtration to give 2-hydroxy-3-(N-hydroxyamino)propylphosphonic acid (0.62 g.).

reactant | 3-(N-ethoxycarbonyl-N-hydroxyamino)-2-hydroxypropylphosphonic acid | 2.4 g | C(C)OC(=O)N(O)CC(CP(O)(O)=O)O | C6H14NO7P
reactant | water | 20 ml | O | H2O
reactant | water | 3 ml | O | H2O
reactant | ammonia | N | H3N
solvent | hydrochloric acid | 1 N, 100 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-hydroxy-3-(N-hydroxyamino)propylphosphonic acid | 0.62 g | OC(CP(O)(O)=O)CNO | C3H10NO5P
